US05225402
Trifluoroacetic acid (0.21 ml) is added dropwise with stirring to a mixture of 1-{1-[4-(3-hydroxypropoxy)-benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.51 g), NaOCN (0.16 g), toluene (5 ml) and chloroform (5 ml) at room temperature. After adding, the mixture is stirred at room temperature overnight. Ethyl acetate is added to the reaction mixture and the mixture-is washed with saturated aqueous sodium hydrogen carbonate solution, water and saline solution successively and then dried with sodium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=100:1) to give 1-{1-[4-(3-carbamoyloxypropoxy)benzoyl-4-piperidinyl}-3,4-dihydrocarbostyril (0.15 g).

reactant | Trifluoroacetic acid | 0.21 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-{1-[4-(3-hydroxypropoxy)-benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.51 g | OCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H28N2O4
reactant | NaOCN | 0.16 g | O([Na])C#N
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(3-carbamoyloxypropoxy)benzoyl-4-piperidinyl}-3,4-dihydrocarbostyril | 0.15 g | C(N)(=O)OCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H29N3O5
